US06635657B1
Preparation of N-(5-Chloropyridin-2-yl)-2-[(1-cyclohexylpiperidin-4-yloxycarbonyl)amino]benzamide Hydrochloride
Using a similar procedure to that described in Example 9-C, N-(5-chloropyridin-2-yl)-2-[(piperidin-4-yloxycarbonyl)amino]benzamide (100 mg, 0.205 mmol), cyclohexanone (0.106 mL, 1.02 mmol), and sodium cyanoborohydride (51 mg, 0.82 mmol) yielded, after treatment with HCl, 33 mg (33%) of the title compound as a hydrochloride salt.

reactant | N-(5-chloropyridin-2-yl)-2-[(piperidin-4-yloxycarbonyl)amino]benzamide | 0.205 mmol, 100 mg | ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)NC(=O)OC1CCNCC1)=O | C18H19ClN4O3
reactant | cyclohexanone | 1.02 mmol, 0.106 mL | C1(CCCCC1)=O | C6H10O
reactant | sodium cyanoborohydride | 0.82 mmol, 51 mg | C(#N)[BH3-].[Na+]
reactant | HCl | Cl | ClH
product | N-(5-Chloropyridin-2-yl)-2-[(1-cyclohexylpiperidin-4-yloxycarbonyl)amino]benzamide Hydrochloride | 33 mg, 33% | Cl.ClC=1C=CC(=NC1)NC(C1=C(C=CC=C1)NC(=O)OC1CCN(CC1)C1CCCCC1)=O | InChI=1S/C24H29ClN4O3.ClH/c25-17-10-11-22(26-16-17)28-23(30)20-8-4-5-9-21(20)27-24(31)32-19-12-14-29(15-13-19)18-6-2-1-3-7-18;/h4-5,8-11,16,18-19H,1-3,6-7,12-15H2,(H,27,31)(H,26,28,30);1H
